US06265349B1
Preparation of 3-(7-chloro-2-ethoxycarbonyl-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 4-6)
0.08 g (0.21 mmol) of 3-(2-carboxy-7-chloro-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone was dissolved in 10 ml of ethanol, and 4.0 mg (0.04 mmol) of sulfuric acid was added thereto, followed by refluxing for 2 hours. Ethanol was distilled off under reduced pressure. Then, the obtained residue was poured into water and extracted with diethyl ether. After washing with water, the organic layer was dried over anhydrous magnesium sulfate. Diethyl ether was distilled off under reduced pressure. Then, the obtained crude crystals were washed with n-hexane to obtain 0.09 g (yield: 99%) of the desired product. Melting point: 118-120° C. 1H-NMR (300 MHz, CDCl3) δ value: 1.41(3H,t), 3.75(3H,s), 4.43(2H,q), 6.82(1H,d), 7.34(1H,d), 7.38(1H,s), 7.57(1H,d)ppm.

reactant | 3-(2-carboxy-7-chloro-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2-(1H)-pyridone | 0.21 mmol, 0.08 g | C(=O)(O)C=1OC2=C(C1)C(=C(C=C2Cl)F)C=2C(N(C(=CC2)C(F)(F)F)C)=O | C16H8ClF4NO4
reactant | sulfuric acid | 0.04 mmol, 4.0 mg | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(7-chloro-2-ethoxycarbonyl-5-fluorobenzofuran-4-yl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 0.09 g, yield: 99% | ClC1=CC(=C(C=2C=C(OC21)C(=O)OCC)C=2C(N(C(=CC2)C(F)(F)F)C)=O)F | C18H12ClF4NO4
